US06603008B1
5-[5-[3-Chloro-4-(1,3-oxazol-2-yl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-1-yl]-2-pyridinesulfonamide (Step 6)
The subtitle compound was prepared according to the procedure of Example 1 (Step 2) using 1-[3-chloro-4-(1,3-oxazol-2-yl)phenyl]-4,4,4-trifluoro-1,3-butanedione, instead of 4,4,4-trifluoro-1-[4-(2-furyl)phenyl]butane-1,3-dione and 5-hydrazino-2-pyridinesulfonamide hydrochloride instead of 2-hydrazino-5-sulfamoylpyridine dihydrochloride.

reactant | 1-[3-chloro-4-(1,3-oxazol-2-yl)phenyl]-4,4,4-trifluoro-1,3-butanedione | ClC=1C=C(C=CC1C=1OC=CN1)C(CC(C(F)(F)F)=O)=O | C13H7ClF3NO3
reactant | 4,4,4-trifluoro-1-[4-(2-furyl)phenyl]butane-1,3-dione | FC(C(CC(=O)C1=CC=C(C=C1)C=1OC=CC1)=O)(F)F | C14H9F3O3
reactant | 5-hydrazino-2-pyridinesulfonamide hydrochloride | Cl.N(N)C=1C=CC(=NC1)S(=O)(=O)N
product | 5-[5-[3-Chloro-4-(1,3-oxazol-2-yl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-1-yl]-2-pyridinesulfonamide | ClC=1C=C(C=CC1C=1OC=CN1)C1=CC(=NN1C=1C=CC(=NC1)S(=O)(=O)N)C(F)(F)F | C18H11ClF3N5O3S
